US09315467B2
Preparation of 4-(6-m-Tolyl-pyrimidin-4-yl)-benzoic acid (Compound 2)
Part B. A 10 mL microwave tube is charged with 4-chloro-6-m-tolyl-pyrimidine (45.7 mg, 0.22 mmol), 4-carboxyphenylboronic acid (39.2 mg, 0.23 mmol), (235.3 mg, 2.22 mmol), Na2CO3 (70.6 mg, 0.67 mmol), tetrabutylammonium iodide (83.0 mg, 0.22 mmol), palladium acetate (0.5 mg, 2.2×mmol) and 2 mL of water. The reaction mixture is heated to 150° C. at 60 w, 250 psi in a microwave reactor for 10 min. The reaction mixture is added to 5 mLl of 6 N HCl and extracted with ethyl acetate (10 mL). The organic portion is washed with saturated NaHCO3 and brine, dried (MgSO4), and concentrated on a rotary evaporator. The oily residue is suspended in ethyl acetate/hexanes (1:1) to provide 9.8 mg (15.1% yield) of white powder as the desired product, m.p. 211-213° C. 1H NMR (300 MHz, DMSO-d6): δ 9.31 (1H, s), 8.66 (1H, s), 8.46 (2H, d, J=8.3 Hz), 8.20 (1H, s), 8.15 (1H, dd, J=8.0, 1.2 Hz), 8.09 (2H, d, J=8.3 Hz), 7.45 (1H, t, J=7.7 Hz), 7.38 (111, dd, J=7.7, 1.0 Hz). MS (ES+): m/e 291.58.

reactant | 4-chloro-6-m-tolyl-pyrimidine | 0.22 mmol, 45.7 mg | ClC1=NC=NC(=C1)C=1C=C(C=CC1)C | C11H9ClN2
reactant | 4-carboxyphenylboronic acid | 0.23 mmol, 39.2 mg | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | Na2CO3 | 0.67 mmol, 70.6 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 6 N | Cl | ClH
catalyst | tetrabutylammonium iodide | 0.22 mmol, 83.0 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 0.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 2 mL | O | H2O
product | 4-(6-m-Tolyl-pyrimidin-4-yl)-benzoic acid | C1(=CC(=CC=C1)C1=CC(=NC=N1)C1=CC=C(C(=O)O)C=C1)C | C18H14N2O2
